US04048187
A mixture of 13.5 parts of 2-hydroxy-5-nonyl benzonitrile, 3.6 parts of sodium azide and 2.95 parts of ammonium chloride, 50 parts of dimethyl formamide and 0.5 parts of water was stirred and boiled for four hours. After cooling the mixture was diluted with water and extracted into chloroform. The chloroform solution was washed with water and with 2 × 200 mls of a 2N solution of sodium hydroxide to extract the product. The aqueous alkaline solution was neutralised with 2N sulphuric acid and re-extracted with chloroform. The extract was washed with water, dried, and evaporated to give 7.1 parts of 5-(2-hydroxy-5-nonylphenyl)tetrazole.

reactant | 2-hydroxy-5-nonyl benzonitrile | OC1=C(C#N)C=C(C=C1)CCCCCCCCC | C16H23NO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-(2-hydroxy-5-nonylphenyl)tetrazole | OC1=C(C=C(C=C1)CCCCCCCCC)C1=NN=NN1 | C16H24N4O
